US04006145
47.2 g of 1-carbethoxy-4-(2-bromo- 10,11-dihydro-dibenzo-[b,f]thiepin-10-yl)-piperazine hydrochloride, 585 ml of ethylene glycol, 32.8 g of potassium hydroxide and 1.95 ml of water are heated to 160° C for 90 minutes. Then the mixture is poured on to water and extracted with chloroform. The organic solution is extracted with 2-N hydrochloric acid. The hydrochloric acid solution is made alkaline, extracted with chloroform, washed with water, dried over magnesium sulphate and concentrated under reduced pressure. There is obtained crystalline 1-(2-bromo- 10,11-dihydro-dibenzo[b,f]-thiepin-10-yl)-piperazine of melting point 112°-115° C.

reactant | 1-carbethoxy-4-(2-bromo- 10,11-dihydro-dibenzo-[b,f]thiepin-10-yl)-piperazine hydrochloride | 47.2 g | Cl.C(=O)(OCC)N1CCN(CC1)C1CC2=C(SC3=C1C=CC=C3)C=CC(=C2)Br
reactant | ethylene glycol | 585 ml | C(CO)O | C2H6O2
reactant | potassium hydroxide | 32.8 g | [OH-].[K+]
solvent | water | O | H2O
solvent | water | 1.95 ml | O | H2O
product | 1-(2-bromo- 10,11-dihydro-dibenzo[b,f]-thiepin-10-yl)-piperazine | BrC1=CC2=C(SC3=C(C(C2)N2CCNCC2)C=CC=C3)C=C1 | C18H19BrN2S
